US06200933B1
Production of 4-(2,2,2-trifluoroethoxy)-6-[3-(trifluoromethyl)phenoxy] picolinic acid (Compound No. I-22)
2-bromo-4-(2,2,2-trifluoroethoxy)-6-[3-(trifluoromethyl)phenoxy] pyridine (9.81 g, 0.0236 mol) was dissolved in about 200 ml of diethyl ether. While cooling in a dry ice-acetone bath in an argon atmosphere, the obtained solution was mixed with n-butyl lithium [16 ml (ca. 1.63 M in hexane solution), 0.0236×1.1 mol]. The obtained mixture was stirred for about 10 minutes. After replacing an interior of the reactor with a carbon dioxide gas, the solution was removed from the bath and stirred at room temperature for about one hour. The obtained reaction solution was mixed with about 15 ml of a 4 N aqueous hydrochloric acid solution, and then distributed in ethyl acetate-water. The organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate, concentrated and then purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane). The purified product was recrystallized by adding hexane thereto, thereby obtaining an aimed product.

reactant | 2-bromo-4-(2,2,2-trifluoroethoxy)-6-[3-(trifluoromethyl)phenoxy] pyridine | 0.0236 mol, 9.81 g | BrC1=NC(=CC(=C1)OCC(F)(F)F)OC1=CC(=CC=C1)C(F)(F)F | C14H8BrF6NO2
reactant | n-butyl lithium | 1.1 mol, ca. 1.63 M, 16 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | diethyl ether | about 200 ml | C(C)OCC | C4H10O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-(2,2,2-trifluoroethoxy)-6-[3-(trifluoromethyl)phenoxy] picolinic acid | FC(COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O)(F)F | C15H9F6NO4
